US07365085B2
a. Diethyl 2-phenyl-2-(2-methyl-2-propenyl)malonate
NaH (440 mg of a 60% dispersion in mineral oil, 11 mmole) was washed free of mineral oil, and suspended in 20 mL of DMF. This was treated with a solution of diethyl phenylmalonate (2.36 g, 10 mmole) in 10 mL of DMF, and the reaction was stirred for 15 minutes, at which time the solution was clear. 2-Methylallyl bromide (2.0 mL) was added, and stirring continued for 1 hour. The reaction was diluted with H2O and extracted with Et2O. The extracts were washed with H2O, dried and the solvent removed and gave the titled compound, 2.85 g (95% yield). MS (ESI) 291 (MH+)

reactant | diethyl phenylmalonate | 10 mmole, 2.36 g | C1(=CC=CC=C1)C(C(=O)OCC)C(=O)OCC | C13H16O4
reactant | 2-Methylallyl bromide | 2.0 mL | CC(CBr)=C | C4H7Br
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | H2O | O | H2O
product | Diethyl 2-phenyl-2-(2-methyl-2-propenyl)malonate | 95% yield | C1(=CC=CC=C1)C(C(=O)OCC)(C(=O)OCC)CC(=C)C | C17H22O4
